US06174901B1
Procedure for Preparation of 2-(3-phenylpropylamino)-4-(3-methylphenyl)-5-(4-pyridyl)pyridine
Preparation of 4-(3-methylphenyl)-5-(4-pyridyl)-1H-pyrid-one To a solution of 6-hydroxy-4-m-tolyl-5,6-dihydro-1H-[5,4′]bipyridinyl-2-one (83 mg, 0.29 mmole) in CHCl3 (3 mL) at r.t. was added 2 ml of conc. H2SO4. The resulting mixture was heated to 55° C. for 2 hr. The mixture was cooled down to r.t. and was carefully quenched with aqueous sodium carbonate. Standard work up (extraction of compound with methylene chloride), followed by purification (silica gel, methanol/methylene chloride) gave the title compound.

reactant | 4-(3-methylphenyl)-5-(4-pyridyl)-1H-pyrid-one | CC=1C=C(C=CC1)C1=CC(NC=C1C1=CC=NC=C1)=O | C17H14N2O
reactant | 6-hydroxy-4-m-tolyl-5,6-dihydro-1H-[5,4′]bipyridinyl-2-one | 0.29 mmole, 83 mg | OC1C(C(=CC(N1)=O)C=1C=C(C=CC1)C)C1=CC=NC=C1 | C17H16N2O2
reactant | H2SO4 | 2 ml | OS(=O)(=O)O | H2O4S
solvent | CHCl3 | 3 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-phenylpropylamino)-4-(3-methylphenyl)-5-(4-pyridyl)pyridine | C1(=CC=CC=C1)CCCNC1=NC=C(C(=C1)C1=CC(=CC=C1)C)C1=CC=NC=C1 | C26H25N3
